US09107916B2
A. methyl 4-(3,5-dichlorophenyl)-3-oxobutanoate
The title compound was prepared in 78% yield from 2-(3,5-dichlorophenyl)acetic acid and 3-methoxy-3-oxopropanoic acid potassium salt according to the procedure for the preparation of Example 170, part A.

reactant | 2-(3,5-dichlorophenyl)acetic acid | ClC=1C=C(C=C(C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | 3-methoxy-3-oxopropanoic acid potassium salt | [K+].COC(CC(=O)[O-])=O
product | methyl 4-(3,5-dichlorophenyl)-3-oxobutanoate | 78% yield | ClC=1C=C(C=C(C1)Cl)CC(CC(=O)OC)=O | C11H10Cl2O3
